US08372823B2
Methyl 6-(2-(3-(4′-formylbiphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate (124 mg, 0.282 mmol) and thiomorpholine (0.040 mL, 0.42 mmol) were dissolved in dichloroethane (12 mL) and NaBH(OAc)3 (179 mg, 0.845 mmol) was added. The reaction solution was stirred under an atmosphere of Ar at ambient temperature for 3.5 h and then quenched with saturated aqueous NaHCO3. The crude product was extracted with EtOAc and the solvent was removed in vacuo. The crude product was purified by flash chromatography (SiO2, 50-90% EtOAc/hexanes) to furnish methyl 6-(2-(3-(4′-(thiomorpholinomethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate as a pale tan solid (90 mg, 61%): 1H NMR (CDCl3, 600 MHz) δ 8.12 (d, 1H, J=7.7 Hz), 8.04-8.02 (m, 2H), 7.97 (t, 1H, J=7.8 Hz), 7.52 (dd, 4H, J=8.2, 1.8 Hz), 7.35 (t, 4H, J=8.6 Hz), 4.03 (s, 3H), 3.55 (s, 2H), 3.51 (t, 2H, J=7.6 Hz), 3.16 (t, 2H, J=7.6 Hz), 2.74-2.73 (m, 4H), 2.70-2.68 (m, 4H); 13C NMR (CDCl3, 150 MHz) δ 187.3, 165.1, 157.4, 152.4, 148.5, 146.5, 139.7, 139.3, 139.0, 138.3, 137.0, 129.4, 128.9, 128.0, 127.1, 126.8, 125.2, 123.3, 63.3, 54.9, 53.0, 40.6, 29.3, 28.0; HR ESI-TOF m/z 528.1950 (M+H+, C30H29N3O4S, requires 528.1951).

reactant | Methyl 6-(2-(3-(4′-formylbiphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate | 0.282 mmol, 124 mg | C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C26H20N2O5
reactant | thiomorpholine | 0.42 mmol, 0.040 mL | N1CCSCC1 | C4H9NS
reactant | NaBH(OAc)3 | 0.845 mmol, 179 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 12 mL | ClC(C)Cl | C2H4Cl2
product | methyl 6-(2-(3-(4′-(thiomorpholinomethyl)biphenyl-4-yl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate | 90 mg, 61% | S1CCN(CC1)CC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C30H29N3O4S
